US06147216
Dissolve 2-phenylpropionic acid (30 g) in 2 B ethanol (100 mL and add anhydrous HCl (10 g). Allow to sit for 48-72 hours, evaporate the solvent in vacuo and purify by distillation to give ethyl 2-phenylpropionate (31 g); bp 100 C. at 6 mm.

reactant | 2-phenylpropionic acid | 30 g | C1(=CC=CC=C1)C(C(=O)O)C | C9H10O2
reactant | HCl | 10 g | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | ethyl 2-phenylpropionate | 31 g | C1(=CC=CC=C1)C(C(=O)OCC)C | C11H14O2
